US07741315B2
Step 10: Methyl 2-(4-chlorobutyl)-6-(3-chloro-4-fluorobenzyl)-4-hydroxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate
A mixture of 6-(3-chloro-4-fluorobenzyl)-3,4-dihydroxy-N,N-dimethyl-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxamide (0.80 g, 2.19 mmol) and magnesium methoxide in methanol (10.6 mL, 6-10% methanol solution available from Aldrich) in DMSO (22 mL) was heated at 60° C. for one hour. Methanol was exhaustively removed under vacuum over 45 minutes. The resulting DMSO solution was treated with 1-bromo-4-chlorobutane (1.80 g, 10.50 mmol) and stirred at 60° C. under an atmosphere of nitrogen for one hour. The reaction mixture was diluted with ethyl acetate and washed with dilute hydrochloric acid. The organic extract was washed with 10% aqueous potassium carbonate, dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was triturated with diethyl ether. The solid precipitated was collected by filtration to provide the title compound. ES MS M+1=471

reactant | 6-(3-chloro-4-fluorobenzyl)-3,4-dihydroxy-N,N-dimethyl-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxamide | 2.19 mmol, 0.80 g | ClC=1C=C(CN2C(C=3C(=C(N=C(C3CC2)C(=O)N(C)C)O)O)=O)C=CC1F | C18H17ClFN3O4
reactant | magnesium methoxide | C[O-].[Mg+2].C[O-]
reactant | 1-bromo-4-chlorobutane | 10.50 mmol, 1.80 g | BrCCCCCl | C4H8BrCl
solvent | methanol | 10.6 mL | CO | CH4O
solvent | DMSO | 22 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 2-(4-chlorobutyl)-6-(3-chloro-4-fluorobenzyl)-4-hydroxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate | ClCCCCN1C(=C2CCN(C(C2=C(C1=O)O)=O)CC1=CC(=C(C=C1)F)Cl)C(=O)OC | C21H21Cl2FN2O5
